US07183297B2
5′-[(2-Chloroisonicotinoyl)amino]-2′-methyl-1,1′-biphenyl-4-carboxylic acid (600 mg, 1.64 mmol) and pyrrolidine (0.6 ml) were heated in a sealed tube at 90° C. for 5 h. The excess pyrrolidine was evaporated under vacuum and the residue purified by flash chromatography (silica) eluting with DCM/ethanol/ammonia (20:8:1). The solvents were evaportated under vacuum to give 2′-methyl-5′-[(2-pyrrolidin-1-ylisonicotinoyl)amino]-1,1′-biphenyl-4-carboxylic acid (546 mg, 83%).

reactant | 5′-[(2-Chloroisonicotinoyl)amino]-2′-methyl-1,1′-biphenyl-4-carboxylic acid | 1.64 mmol, 600 mg | ClC=1C=C(C(=O)NC=2C=CC(=C(C2)C2=CC=C(C=C2)C(=O)O)C)C=CN1 | C20H15ClN2O3
reactant | pyrrolidine | 0.6 ml | N1CCCC1 | C4H9N
product | 2′-methyl-5′-[(2-pyrrolidin-1-ylisonicotinoyl)amino]-1,1′-biphenyl-4-carboxylic acid | 546 mg, 83% | CC1=C(C=C(C=C1)NC(C1=CC(=NC=C1)N1CCCC1)=O)C1=CC=C(C=C1)C(=O)O | C24H23N3O3
